US08975254B2
N—((S)-1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(1-hydroxyethyl)isoxazole-3-carboxamide
Sodium borohydride (0.012 g, 0.308 mmol) was added into a flask and the atmosphere was replaced with nitrogen. Dry ethanol was added and the reaction mixture was cooled to 0° C. (S)-5-acetyl-N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)isoxazole-3-carboxamide (0.064 g, 0.154 mmol) was added and the reaction mixture was warmed slowly to RT while stirring overnight. The crude product was cooled to 0° C., the pH was adjusted below 7 and the mixture was evaporated. 5% of DCM/MeOH was added and the crude product was washed with 1M NaHCO3, water and dried. Yield 81%. 1H-NMR (400 MHz; DMSO-d6): δ 1.16 (d, 3H), 1.40 (dd, 3H), 4.32 (d, 2H), 4.45 (m, 1H), 4.86 (m, 1H), 5.78 (dd, 1H), 6.53 (dd, 1H), 7.00 (d, 1H), 7.84 (d, 1H), 7.86 (m, 1H), 7.98 (d, 1H), 8.75 (d, 1H).

reactant | Sodium borohydride | 0.308 mmol, 0.012 g | [BH4-].[Na+]
reactant | (S)-5-acetyl-N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)isoxazole-3-carboxamide | 0.154 mmol, 0.064 g | C(C)(=O)C1=CC(=NO1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C(=C1)F)C#N)Cl)C | C19H15ClFN5O3
solvent | ethanol | C(C)O | C2H6O
product | N—((S)-1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(1-hydroxyethyl)isoxazole-3-carboxamide | Yield 81% | ClC=1C=C(C=C(C1C#N)F)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)C(C)O | C19H17ClFN5O3
